US08426411B2
Crude racemic 4-methylpiperidine-3-carboxylic acid hydrochloride (˜70% chemical purity, approximately 15:1 cis:trans) in AcOH (2:1, 300 g) was dissolved in EtOH (1500 mL) and sparged with HCl (gas) for about 15 min. The reaction mixture was fitted with a balloon to allow for expansion then heated to about 85° C. After about 48 h, the reaction mixture was cooled to ambient temperature and concd in vacuo to provide a thick syrup containing racemic ethyl 4-methylpiperidine-3-carboxylic acid hydrochloride (260 g). To this ester was added CHCl3 (1000 mL) followed by saturated aqueous NaHCO3 (500 mL) and NH4OH (15% aqueous, 500 mL). The organic layer was separated and the aqueous layer was further extracted with CHCl3 (1000 mL). The combined organic layers were dried over anhydrous Na2SO4, filtered, and then concd in vacuo to provide crude ethyl 4-methylpiperidine-3-carboxylate (200 g) as an oil. To a slurry of (2S,3S)-2,3-dihydroxysuccinic acid (150 g, 1001 mmol) in MeOH (200 mL) was added a solution of crude ethyl 4-methylpiperidine-3-carboxylate (200 g, 1168 mmol) in EtOAc (3000 mL). The mixture was stirred rapidly for about 3 h and the resulting solids were collected by filtration to provide the (2S,3S)-2,3-dihydroxysuccinate salt as a white solid (245 g) (approximately 15:1 cis:trans, er=48:52 for cis stereoisomers). The solids were dissolved in MeOH (1000 mL) and EtOAc (3000 mL) was slowly added until solids began to form. After about 30 min, the solids were collected by filtration and partially dried in vacuo to provide a stereo-enriched mixture containing (3R,4R)-ethyl 4-methylpiperidine-3-carboxylate (2S,3S)-2,3-dihydroxysuccinate as a white solid (145 g) (approximately 15:1 cis:trans, er=60:40 for (3R,4R):(3S,4S) enantiomers). The above solids were dissolved in MeOH (1000 mL) and divided into four lots. Each lot (250 mL) was diluted with MeOH (500 mL) and EtOAc (3000 mL) was slowly added to the solution until solids formed. After about 4-15 h, the solids were collected by filtration and dried in vacuo to provide multiple lots of partially resolved (3R,4R)-ethyl 4-methylpiperidine-3-carboxylate (2S,3S)-2,3-dihydroxysuccinate, these were combined and dissolved in MeOH (1000 mL) and EtOAc (4000 mL) was slowly added. After stirring for about 1 h the solids were collected by filtration to provide (3R,4R)-ethyl 4-methylpiperidine-3-carboxylate (2S,3S)-2,3-dihydroxysuccinate (4.5 g) (approximately 15:1 cis:trans, er=98:2 for (3R,4R):(3S,4S) enantiomers), chiral analytical LC (Table 2, Method 30) minor isomer Rt=12.2 min; MS m/z: 343 (M+(2S,3S)-2,3-dihydroxysuccinate+Na)+; major isomer Rt=10.6 min; MS m/z: 343 (M+(2S,3S)-2,3-dihydroxysuccinate+Na)+

reactant | racemic 4-methylpiperidine-3-carboxylic acid hydrochloride | Cl.CC1C(CNCC1)C(=O)O
reactant | racemic ethyl 4-methylpiperidine-3-carboxylic acid hydrochloride | 260 g | Cl.C(C)N1CC(C(CC1)C)C(=O)O
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
reactant | NH4OH | 500 mL | [NH4+].[OH-]
solvent | AcOH | 300 g | CC(=O)O | C2H4O2
solvent | EtOH | 1500 mL | CCO | C2H6O
solvent | CHCl3 | 1000 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4-methylpiperidine-3-carboxylate | 200 g | CC1C(CNCC1)C(=O)OCC | C9H17NO2
